* source DITHER_RAS
V_V1         N38290 0  
+SIN 1v 10v 500Hz 0 0 0
R_R4         N38290 N61779  649k  
R_R5         0 N38290  649k  
C_C3         N20508 N61779  12n  
C_C10         N58453 N57891  1uF  
R_R10         N57895 N57931  332  
R_R12         N58453 N57931  20k  
R_R13         N58453 N57943  20k  
C_C12         N57943 N57931  1n  
C_C13         0 N57931  100n  
C_C14         +V 0  100n  
C_C15         N57891 N58221  1n  
X_U3B         N20508 N58221 +V 0 N57891 LM358
D_D2         N57943 N57931 D1N4148 
D_D3         N57931 N57943 D1N4148 
V_V2         +V 0 5v
X_U4A         N57931 N57943 +V 0 N58063 LM358
R_R14         N57931 N58063  1000k  
R_R16         N20508 N57895  255k  
R_R17         N58221 N57891  255k  
C_C4         0 N20508  1n  
C_C6         0 N38290  39n  
