* source TLV3501
V_V1         N14281251 0 5
R_R3         0 N14284826  10k  
V_V2         N14289989 0 1
C_C1         0 N14281251  100n  
V_VThresh         N14293891 0 2.5
X_U1         N14293959 N14293891 N14281251 0 N14284826 N14289989 TLV3501
V_V5         N14293963 0  
+SIN 2.5V 1 2000000 0 0 0
R_R4         N14293963 N14293959  1.5k TC=0,0 
R_R5         N14293959 N14284826  74k TC=0,0 
