* source TLV7011
.EXTERNAL INPUT OUT
X_U1         N841252 0 OUT N838427 0 TLV7011
V_V+1         N838427 0 2.5V
V_V1         N841245 0  AC 340
+SIN 0 340 50 0 0 0
R_R4         N841252 N841245  1000000 TC=0,0 
R_R5         0 N841252  10000 TC=0,0 
X_D1         0 N841252 awb1n5823 PARAMS:                
X_U2         N842975 N845234 OUT N842875 N846433 TLV7011
V_V+2         N842875 0 5V
V_V2         N842975 0  AC 2
+SIN 1.25 2 1000 0 0 0
V_V+3         N845234 0 1.25V
R_R12         N846433 0  1m TC=0,0 
